US07410981B2
2-(Methylamino)ethyl 4-methoxybenzoate hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl (methyl)carbamate (1.75 g) obtained in Reference Example 1 and ethyl acetate (10 mL) were added 4-methoxybenzoyl chloride (1.88 g) and pyridine (0.97 mL). After stirring at room temperature for 14 hrs., 4-methoxybenzoyl chloride (0.70 g) and pyridine (0.97 mL) were added and the mixture was stirred 15 at room temperature for 1 hr. Ethyl acetate (80 mL) was added to the reaction mixture, and the mixture was washed with water (20 mL), a saturated aqueous sodium hydrogen carbonate solution (20 mL) and water (20 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was dissolved in ethyl acetate (10 mL), and a 4N hydrogen chloride-ethyl acetate solution (10 mL) was added. After stirring at room temperature for 1 hr., diethyl ether (20 mL) was added, and the precipitated solid was collected by filtration. The solid was washed twice with ethyl acetate (15 mL) and dried under reduced pressure at 60° C. to give the title compound (1.99 g) as a white solid.

reactant | 4-methoxybenzoyl chloride | 1.88 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | pyridine | 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-methoxybenzoyl chloride | 0.70 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | pyridine | 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | Ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Methylamino)ethyl 4-methoxybenzoate hydrochloride | 1.99 g | Cl.COC1=CC=C(C(=O)OCCNC)C=C1 | InChI=1S/C11H15NO3.ClH/c1-12-7-8-15-11(13)9-3-5-10(14-2)6-4-9;/h3-6,12H,7-8H2,1-2H3;1H
